US04366307
A 5 liter glass reactor with stirrer, thermometer and reflux condenser was used. 2496 grams (32.0 moles) of 2-mercaptoethanol were taken in this reactor. To this was added dropwise, 1824 grams (16.0 moles) of allyl glycidyl ether with vigorous stirring. The exotherm was controlled by water bath. After addition of allyl glycidyl ether, 3 grams of t-butyl perbenzoate and 0.3 grams of tetramethyl guanidine were added and the solution stirred. The completion of the reaction was determined by IR spectrum. The resulting material, 3,11-dithia, 7-oxa, 1,5,13-trihydroxy tridecane, was obtained in the form of a viscous liquid.

reactant | 2-mercaptoethanol | 32.0 moles, 2496 grams | SCCO | C2H6OS
reactant | allyl glycidyl ether | 16.0 moles, 1824 grams | C(C1CO1)OCC=C | C6H10O2
reactant | t-butyl perbenzoate | 3 grams | C1=CC=CC=C1C(=O)OOC(C)(C)C | C11H14O3
reactant | tetramethyl guanidine | 0.3 grams | CN(C(N(C)C)=N)C | C5H13N3
product | 1,5,13-trihydroxy tridecane | OCCCCC(CCCCCCCCO)O | C13H28O3
